### PR TITLE
[Merged by Bors] - feat(Tactic/ComputeAsymptotics/Multiseries): non-primitive corecursion for `Seq`

### PR DESCRIPTION
**Pull request by vasnesterov**
This PR develops a theory that justifies corecursive definitions of the form
```lean
def foo (x : X) := hd x :: f (foo (tlArg x))
```
where `f : Seq α → Seq α` is a friendly operation.

---

This is a part of the `compute_asymptotics` tactic (#28291).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 1]
```diff
@@ -0,0 +1,582 @@
...
+    simp only [cons_eq_cons, true_and]
+    congr
+    change f b' = T f b'
+    rw [hf]
+
+/-- Non-primitive corecursor for `Seq α` allowing to use a friendly operation in the tail of the
+corecursive definition. -/
+noncomputable def gcorec (F : β → Option (α × γ × β)) (op : γ → Seq α → Seq α)
+    [FriendlyOperationClass op] :
+  β → Seq α := (FriendlyOperation.exists_fixed_point F op).choose
```
Comment (plp127) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean:272]: I think this can be done with just strong recursion on `Nat`, and you don't need banach fixpoint theorem which implies a lot of transitive imports.

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 2]
```diff
@@ -0,0 +1,582 @@
...
+
+@[simp]
+theorem dist_nil_cons (x : α) (s : Seq α) : dist nil (cons x s) = 1 := by
+  rw [dist_comm]
+  simp
+
+/-- A function on sequences called a "friend" if any `n`-prefix of its output depends only on
+the `n`-prefix of the input. Such functions can be used in the tail of (non-primitive) corecursive
+definitions. -/
+def FriendlyOperation (op : Seq α → Seq α) : Prop := LipschitzWith 1 op
```
Comment (plp127) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean:164]: Can you prove the characterization claimed in the docstring? That is, an operation `op` is friendly iff the `n`-prefixes of its output only depend on the `n`-prefixes of its input.

Comment (vasnesterov) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean:164]: It's possible but the metric approach looks much cleaner. The tactic never uses the characterization from the docstring, it only relies on `gcorec` and coinductive principles.

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean (hunk 1 above)
Comment (vasnesterov) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean:272]: While I love the metric-based approach I came up with, I'd be happy to reduce the number of imports (though I'm not sure it's really that many, given that the tactic already imports `Mathlib.Analysis.SpecialFunctions.Pow.Asymptotics`, for example).

However, I suspect the code would end up uglier, so for now I'd prefer to keep the metric approach and only start reducing imports once the tactic is merged.

Comment (plp127) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean:272]: Oh this is part of a tactic! Is this only going to be used in the tactic? If so, can you add a comment about that to the module docstring?

Comment (vasnesterov) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean:272]: Yes, this is a part of #28291. I feel this is not general enough to live in `Data/Seq`, it's just a bare minimum I need for the tactic. I'll add a comment to the docstring.

Comment (plp127) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean:272]: Also, please namespace all the declarations so it's clear they are for the tactic

Comment (vasnesterov) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean:272]: Done

**Comment by vasnesterov** [comment]
@ocfnash Thanks! Yes, we want to work with series as lazy possibly infinite lists, because we can’t know in advance how many terms we’ll need. It’s also easier to work with infinite series mathematically than with their truncations, I guess.

But "basis" in the context of this tactic means something different (and it is always finite). A basis is just a list of real functions ordered by their growth rate. The main object we work with is a so-called multiseries -- a multivariate formal series with monomials of the form `b₁^e₁ * ... * bₙ^eₙ`, where `[b₁, ..., bₙ]` is our basis and `e₁, ..., eₙ` are real numbers.
Here’s a clean and natural continuation in the same tone:

We need corecursion to define the operations on multiseries: addition, multiplication, etc. Some operations (multiplication and `powser`) cannot be expressed directly using `Seq.corec`. That’s why we need to develop some theory of non-primitive corecursion.

I’ve written a short description of how the tactic works to give the reviewer more context: https://vasnesterov.github.io/compute_asymptotics. Feel free to ask/suggest anything.

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 3]
```diff
@@ -0,0 +1,289 @@
...
+
+open Stream' Seq
+
+open scoped UniformConvergence
+
+variable {α β γ γ' : Type*}
+
+/-- Metric space structure on `Stream' α` considering `α` as a discrete metric space. -/
+noncomputable local instance : MetricSpace (Stream' α) :=
+  @PiNat.metricSpace (fun _ ↦ α) (fun _ ↦ ⊥) (fun _ ↦ discreteTopology_bot _)
```
Comment (eric-wieser) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean:70]: Should this be a global instance on `Stream`, but with a `[DiscreteTopology α]` assumption?

Comment (vasnesterov) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean:70]: I don't think anything here should be global. I see this file as an ad hoc implementation of a very limited construction - just enough for the tactic.

It's possible to generalize this to arbitrary coinductive type and support a more powerful form of corecursion, but I think we need to wait until QPF is done and ready to use before doing that.

Do you think this metric space structure is useful for other applications?

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 4]
```diff
@@ -0,0 +1,289 @@
...
+    simp
+  | some v =>
+    obtain ⟨a, c, b'⟩ := v
+    simp only [cons_eq_cons, true_and]
+    congr
+    change f b' = T f b'
+    rw [hf]
+
+/-- Non-primitive corecursor for `Seq α` that allows using a friendly operation in the tail of the
+corecursive definition. -/
```
Comment (eric-wieser) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: What does the `g` stand for?

Comment (vasnesterov) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: "General" as the opposite to primitive

Comment (eric-wieser) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: Can you include the word "general" in the docstring then?

Comment (eric-wieser) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: (or remove `g` from the name)

File: Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean [hunk 5]
```diff
@@ -0,0 +1,289 @@
...
+/-!
+# Non-primitive corecursion for sequences
+
+Primitive corecursive definition of the form
+```
+def foo (x : X) := hd x :: foo (tlArg x)
+```
+(where hd and tlArg are arbitrary functions) can be encoded via the corecursor `Seq.corec`.
+
+It is not enough, however, to define multiplication and powser operation for multiseries.
```
Comment (eric-wieser) [inline Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]:
```suggestion
It is not enough, however, to define multiplication and power operations for multiseries.
```

Comment (vasnesterov) [reply Mathlib/Tactic/ComputeAsymptotics/Multiseries/Corecursion.lean]: It's the `powser` operation (https://vasnesterov.github.io/compute_asymptotics#lazyseries-and-powser-operation) -- the substitution of a multiseries into a power series. This is what Eberl calls it in his tactic. But I'm happy to rename it if you have a better suggestion!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
